US05241076
b) 5-Chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.01octane
7.6 g (30.8 mmol) of ethyl 5-chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.01octane-7-carboxylate are heated under reflux overnight with 30 ml of concentrated hydrochloric acid. The mixture ic concentrated, the residue is taken up in 30 ml of water, and the mixture is rendered alkaline with potassium carbonate, extracted five times with 50 ml of chloroform each time, dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 5-chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.01octane-7-carboxylate | 30.8 mmol, 7.6 g | ClC12CC(N(C2CN(C1)C(=O)OCC)C)C | C11H19ClN2O2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
product | 5-Chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.01octane | ClC12CC(N(C2CNC1)C)C | C8H15ClN2
